US07314849B2
A solution of 4-acetylamino-3,6-dichloropyridine carboxylic acid methyl ester (4.3 g, 0.016 mol), 2-(4-chloro-2-fluoro-5-methoxyphenyl)-[1,3,2]-dioxaborinane (4.5 g, 0.018 mol), cesium fluoride (3.5 g, 0.025 mol), and 1,4-bis(diphenylphosphino)butane (0.360 g, 0.0016 mol) in acetonitrile (100 mL) was degassed with nitrogen for 15 minutes before palladium acetate (0.180 g, 0.0016 mol) was added and the solution heated under reflux for 18 hours. Water (150 mL) was added and the resulting solid collected and dried to give 4-acetylamino-3-chloro-6-(4-chloro-2-fluoro-5-methoxyphenyl)pyridine-2-carboxylic acid methyl ester (4.5 g, 0.012 mol): mp 180-182° C.

reactant | 4-acetylamino-3,6-dichloropyridine carboxylic acid methyl ester | 0.016 mol, 4.3 g | COC(=O)C1=NC(=CC(=C1Cl)NC(C)=O)Cl | C9H8Cl2N2O3
reactant | 2-(4-chloro-2-fluoro-5-methoxyphenyl)-[1,3,2]-dioxaborinane | 0.018 mol, 4.5 g | ClC1=CC(=C(C=C1OC)B1OCCCO1)F | C10H11BClFO3
reactant | cesium fluoride | 0.025 mol, 3.5 g | [F-].[Cs+]
reactant | 1,4-bis(diphenylphosphino)butane | 0.0016 mol, 0.360 g | C1(=CC=CC=C1)P(CCCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C28H28P2
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
catalyst | palladium acetate | 0.0016 mol, 0.180 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | Water | 150 mL | O | H2O
product | 4-acetylamino-3-chloro-6-(4-chloro-2-fluoro-5-methoxyphenyl)pyridine-2-carboxylic acid methyl ester | 0.012 mol, 4.5 g | COC(=O)C1=NC(=CC(=C1Cl)NC(C)=O)C1=C(C=C(C(=C1)OC)Cl)F | C16H13Cl2FN2O4
